US07745467B2
5.1. Ethyl 5-fluoro-1-[(pyrid-3-yl)ethyl]-1H-indole-2-carboxylate
A solution of 0.365 g (1.44 mmol) of 1,1′-(azodicarbonyl)dipiperidine in 10 ml of tetrahydrofuran is added dropwise to a solution of 0.2 g (0.97 mmol) of ethyl 5-fluoro-1H-indole-2-carboxylate, 0.178 g (1.45 mmol) of 2-(pyrid-3-yl)ethanol and 0.36 ml (1.44 mmol) of tributylphosphine in 30 ml of tetrahydrofuran. The reaction mixture is stirred overnight at room temperature and then concentrated under reduced pressure and taken up in 50 ml of cyclohexane. The suspension is then filtered and the filtrate is chromatographed on a column of silica (eluent: dichloromethane/methanol). 0.125 g of the expected product is obtained.

reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.44 mmol, 0.365 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | ethyl 5-fluoro-1H-indole-2-carboxylate | 0.97 mmol, 0.2 g | FC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10FNO2
reactant | 2-(pyrid-3-yl)ethanol | 1.45 mmol, 0.178 g | N1=CC(=CC=C1)CCO | C7H9NO
reactant | tributylphosphine | 1.44 mmol, 0.36 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Ethyl 5-fluoro-1-[(pyrid-3-yl)ethyl]-1H-indole-2-carboxylate | 0.125 g | FC=1C=C2C=C(N(C2=CC1)CCC=1C=NC=CC1)C(=O)OCC | C18H17FN2O2
